US09388189B2
N′-[3-Methoxy-5-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]-N,N-dimethylsulfamide
(S)-2-(1-((5-(3-Amino-5-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (50 mg, 0.08 mmol) was treated with dimethylsulfamoyl chloride (25 μL, 0.23 mmol) and 200 μL pyridine according to the method described in Preparation 15b but stirring at 45° C. during 48 h. The residue was purified using SP1® Purification System (0% to 100% hexane-ethyl acetate) to obtain 30 mg (44% yield, 85% purity) of the title compound.

reactant | (S)-2-(1-((5-(3-Amino-5-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.08 mmol, 50 mg | NC=1C=C(C=C(C1)OC)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C34H40N8O3Si
reactant | dimethylsulfamoyl chloride | 0.23 mmol, 25 μL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | pyridine | 200 μL | N1=CC=CC=C1 | C5H5N
product | N′-[3-Methoxy-5-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]-N,N-dimethylsulfamide | 44% yield | COC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)N(C)C | C36H45N9O5SSi
